US06355653B1
A suspension of 85.0 g (0.32 mol) 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride in 700 ml chloroform was treated with 320 ml 1N aqueous sodium hydoxide. 100 ml of a saturated aqueous sodiumbicarbonate solution was added and the mixture was extracted with chloroform. The extracts were combined and dried with sodium sulfate and the solvents were distilled off under reduced pressure. The resulting colorless oil was stirred together with 42.6 g (0.34 mol) 2-furancarboxylic acid hydrazide in 600 ml chloroform for 24 hours at 50° C. The resulting precipitate was filtered off and dried. A quantitative yield of furan-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide was obtained as pale crystals, mp. 195° C. (decomposition), MS m/e (%): 308 (M+H+, 100).

reactant | 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride | 0.32 mol, 85.0 g | Cl.C(C)OC(CS(=O)(=O)C1=CC=CC=C1)=N
reactant | sodium hydoxide | 1N, 320 ml | [OH-].[Na+]
reactant | sodiumbicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | 2-furancarboxylic acid hydrazide | 0.34 mol, 42.6 g | O1C(=CC=C1)C(=O)NN | C5H6N2O2
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | furan-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | quantitative yield | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(=O)C=1OC=CC1 | C13H13N3O4S
